US08134001B2
Preparation of intermediate 1-[5-bromo-2-(1-ethoxycarbonyl-1-methyl-ethoxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene
To a mixture of 2-(4-bromo-2-formyl-phenoxy)-2-methyl-propionic acid ethyl ester (6 g, 19 mmol) in THF (80 mL) at 0° C. was added a solution of lithium bis(trimethylsilyl)amide in THF (1 M, 19 mL, 19 mmol). The mixture was stirred under argon at 0° C. for 1h. Then trimethylsilyl chloride (2.4 ML, 19 mmol) was added dropwise, followed by addition of triethylamine (3.44 mL, 24.6 mmol) in one portion and a solution of acetyl chloride (1.75 mL, 24.6 mmol) in diethyl ether (80 mL) dropwise. The cooling bath was removed, and the mixture was stirred at room temperature for 1 h. The mixture was quickly filtered on celite under argon, and the filtrate was concentrated under reduced pressure. The residue was dissolved in toluene (19 mL) to give a solution (1 M) of the title compound.

reactant | 2-(4-bromo-2-formyl-phenoxy)-2-methyl-propionic acid ethyl ester | 19 mmol, 6 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)Br)C=O)=O | C13H15BrO4
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | trimethylsilyl chloride | 19 mmol | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 24.6 mmol, 3.44 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 24.6 mmol, 1.75 mL | C(C)(=O)Cl | C2H3ClO
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 80 mL | C(C)OCC | C4H10O
solvent | THF | 19 mmol, 1 M, 19 mL | C1CCOC1 | C4H8O
product | 1-[5-bromo-2-(1-ethoxycarbonyl-1-methyl-ethoxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene | BrC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)OC(C)(C)C(=O)OCC | C18H26BrNO4Si
